US04623662
Many of the novel ureas and thioureas of this invention are prepared by reacting arylisocyanates and arylisothiocyanates with secondary amines. These reactions may be performed in aprotic solvents such as hexane, diethyl ether, toluene, tetrahydrofuran, and the like at temperatures from room temperature or below up to the boiling point of the solvent used. The ureas and thioureas are isolated by filtration or by evaporation of the solvent, and they may be purified by recrystallization, absorption chromatography, or distillation under reduced pressure. Examples of this process are the reaction of 2,4-dimethylphenylisocyanate with N-benzyl-N-(n-butyl)amine to yield 1-benzyl-1-(n-butyl)-3-(2,4-dimethylphenyl)urea and the reaction of 6-[[(4-butylphenyl)methyl]amino]-1-hexanol with 2,4-dimethylphenyl isocyanate in hexane at room temperature to yield 1-[(4-butylphenyl)methyl]-3-(2,4-dimethylphenyl)-1-(6-hydroxyhexyl)urea.

reactant | 6-[[(4-butylphenyl)methyl]amino]-1-hexanol | C(CCC)C1=CC=C(C=C1)CNCCCCCCO | C17H29NO
reactant | 2,4-dimethylphenyl isocyanate | CC1=C(C=CC(=C1)C)N=C=O | C9H9NO
solvent | hexane | CCCCCC | C6H14
product | 1-[(4-butylphenyl)methyl]-3-(2,4-dimethylphenyl)-1-(6-hydroxyhexyl)urea | C(CCC)C1=CC=C(C=C1)CN(C(=O)NC1=C(C=C(C=C1)C)C)CCCCCCO | C26H38N2O2
